US07968535B2
7,8-Dihydro-5H-pyrido[3,2-b]azepine-6,9-dione 9-[(4-iodophenyl)hydrazone]
Prepared according to general procedure A from 176 mg (1.0 mmol) 5H-pyrido[3,2-b]azepine-6,9(7H,8H)-dione and 257 mg (1.5 mmol) (4-iodophenyl)hydrazine hydrochloride. Recrystallization from ethanol afforded an orange solid. Yield: 248 mg (63%); m.p. 204-205° C.; IR (KBr): 3211 cm−1 (NH), 2964/2900 cm−1 (CH-aliph.), 1691 cm−1 (C═O); 1H-NMR (DMSO-d6, 400 MHz): δ (ppm)=2.55-2.59 (m, 2H, azepine-CH2, part of AA′XX′-system), 3.01-3.04 (m, 2H, azepine-CH2, part of AA′XX′-system), 7.02-7.06 (m, 2H, arom. H), 7.37-7.44 (m, 2H, arom. H), 7.50-7.54 (m, 2H, arom. H), 8.41 (dd, 1H, 4.5/1.7 Hz, arom. H), 9.51 (s, 1H, NH), 9.82 (s, 1H, NH); C15H13IN4O (392.20).

reactant | 5H-pyrido[3,2-b]azepine-6,9(7H,8H)-dione | 1.0 mmol, 176 mg | N1=CC=CC=2NC(CCC(C21)=O)=O | C9H8N2O2
reactant | (4-iodophenyl)hydrazine hydrochloride | 1.5 mmol, 257 mg | Cl.IC1=CC=C(C=C1)NN
reactant | KBr | [K+].[Br-]
product | 7,8-Dihydro-5H-pyrido[3,2-b]azepine-6,9-dione 9-[(4-iodophenyl)hydrazone] | IC1=CC=C(C=C1)NN=C1C2=C(NC(CC1)=O)C=CC=N2 | C15H13IN4O
